US08648081B2
Add a solution of LiHDMS (1M in THF, 75 mL, 75 mmol) to a suspension of 3-acetyl-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid methyl ester (14.0 g, 62.5 mmol) in dry THF (200 mL) at −78° C. under N2. After stirring at room temperature for 1.5 h, add 1-(3,5-dichloro-4-fluoro-phenyl)-2,2,2-trifluoro-ethanone (17.9 g, 68.7 mmol) in dry THF (100 mL) to the reaction mixture and stir the resultant mixture at the same temperature for additional 2 hours. Quench the reaction with saturated NH4Cl aqueous solution. Extract the aqueous mixture with EtOAc (100 mL×3). The combined organic layers are washed with brine, dried over anhydrous Na2SO4 and concentrated under vacuum. Purify the residue by silica gel chromatograph (PE:EtOAc 15:1) to afford 3-[3-(3,5-Dichloro-4-fluoro-phenyl)-4,4,4-trifluoro-3-hydroxy-butyryl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid methyl ester as an orange solid (27 g, 89.3%). MS (m/z): 486 (M+1).

reactant | 3-acetyl-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid methyl ester | 62.5 mmol, 14.0 g | COC(=O)C=1SC(=C2C1CCC2)C(C)=O | C11H12O3S
reactant | 1-(3,5-dichloro-4-fluoro-phenyl)-2,2,2-trifluoro-ethanone | 68.7 mmol, 17.9 g | ClC=1C=C(C=C(C1F)Cl)C(C(F)(F)F)=O | C8H2Cl2F4O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-[3-(3,5-Dichloro-4-fluoro-phenyl)-4,4,4-trifluoro-3-hydroxy-butyryl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid methyl ester | 27 g, 89.3% | COC(=O)C=1SC(=C2C1CCC2)C(CC(C(F)(F)F)(O)C2=CC(=C(C(=C2)Cl)F)Cl)=O | C19H14Cl2F4O4S
